US07781478B2
A mixture of 2-chloro-N-cyclopropyl-N-(3-methoxy-phenyl)-acetamide (1.25 g, 5.2 mmol), Pd(OAc)2 (0.06 g, 0.26 mmol), Et3N (0.79 g, 1.10 mL, 7.8 mmol), biphenyl-2-yl-di-tert-butyl-phosphane (0.155 g, 0.52 mmol) in toluene (6.0 mL) was stirred at 80° C. overnight. After cooling to room temperature the mixture was purified on silica gel (CH2Cl2/EtOAc, 9.5:0.5) to provide 1-cyclopropyl-6-methoxy-1,3-dihydro-indol-2-one as a solid (0.89 g, 84%).

reactant | 2-chloro-N-cyclopropyl-N-(3-methoxy-phenyl)-acetamide | 5.2 mmol, 1.25 g | ClCC(=O)N(C1=CC(=CC=C1)OC)C1CC1 | C12H14ClNO2
reactant | Et3N | 7.8 mmol, 1.10 mL, 0.79 g | CCN(CC)CC | C6H15N
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.52 mmol, 0.155 g | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.26 mmol, 0.06 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-cyclopropyl-6-methoxy-1,3-dihydro-indol-2-one | 0.89 g, 84% | C1(CC1)N1C(CC2=CC=C(C=C12)OC)=O | C12H13NO2
